US04112236
This compound is prepared by the series of reactions described in Example 3, except that in Step B an equivalent amount of 1-chloro-4-acetoxyundecane is substituted for 1-bromo-4-acetoxy-2-nonene and the heating period at 90° C. is extended to 28 hours. There is thus obtained in Step B of this example, ethyl 4-{3-[N-(4-acetoxyundecyl)methanesulfonamido]propyl}benzoate. Saponficiation of this ester is STep C yields 4-{3-[N-(4-hydroxyundecyl)methanesulfonamido]propyl}benzoic acid.

reactant | 1-chloro-4-acetoxyundecane | ClCCCC(CCCCCCC)OC(C)=O | C13H25ClO2
reactant | 1-bromo-4-acetoxy-2-nonene | BrCC=CC(CCCCC)OC(C)=O | C11H19BrO2
reactant | ethyl 4-{3-[N-(4-acetoxyundecyl)methanesulfonamido]propyl}benzoate | C(C)(=O)OC(CCCN(S(=O)(=O)C)CCCC1=CC=C(C(=O)OCC)C=C1)CCCCCCC | C26H43NO6S
product | 4-{3-[N-(4-hydroxyundecyl)methanesulfonamido]propyl}benzoic acid | OC(CCCN(S(=O)(=O)C)CCCC1=CC=C(C(=O)O)C=C1)CCCCCCC | C22H37NO5S
